US06960580B2
[4-chloro-6-methoxy-7-(3-piperidin-1-yl-propoxy)-quinolin-3-yl]-carbamic acid tert-butylester (1.8 g) was dissolved in dichloromethane and added trifluoroacetic acid (2 ml) and stirred at room temperature for 2 h. This was carefully basified with ammonium hydroxide solution and extracted the desired amino product with ethyl acetate. The solvent was evaporated to give 4-chloro-6-methoxy-7-(3-piperidin-1-yl-propoxy)-quinolin-3-ylamine (0.500 g). MS(ES) 350 (M+H).

reactant | [4-chloro-6-methoxy-7-(3-piperidin-1-yl-propoxy)-quinolin-3-yl]-carbamic acid tert-butylester | 1.8 g | C(C)(C)(C)OC(NC=1C=NC2=CC(=C(C=C2C1Cl)OC)OCCCN1CCCCC1)=O | C23H32ClN3O4
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-chloro-6-methoxy-7-(3-piperidin-1-yl-propoxy)-quinolin-3-ylamine | 0.500 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1)N | C18H24ClN3O2
